US05556864
2-(3-Phenylpropyl)phenol
The whole of this benzyl 2-(3-phenyl-1-propenyl)phenyl ether was treated with hydrogen in the presence of 100 mg of 5% w/w palladium-on-carbon in 40 ml of ethanol at room temperature for 3 hours. At the end of this time, insoluble materials were removed by filtration, and the filtrate was concentrated by distillation under reduced pressure, to give 0.230 g (yield 83%) of the title compound as a colorless oil.

reactant | benzyl 2-(3-phenyl-1-propenyl)phenyl ether | C1(=CC=CC=C1)CC=CC1=C(C=CC=C1)OCC1=CC=CC=C1 | C22H20O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 2-(3-Phenylpropyl)phenol | 0.230 g, yield 83% | C1(=CC=CC=C1)CCCC1=C(C=CC=C1)O | C15H16O
